US08216547B2
A 12-L 4-neck flask equipped with an overhead mechanical stirrer, N2 inlet/outlet adapter, and thermocouple was charged with THF (3.26 L) and 3-methylbenzo[b]thiophen-2-amine hydrochloride (326 g, 1.6 mol) followed by pyridine (265 mL, 3.3 mol). The resulting mixture was cooled to 5° C. using a ice bath, to which was added a solution of 4-(chlorosulfonyl)benzoic acid (396 g, 1.8 mol) dissolved in THF (2.44 L), drop-wise. The resulting mixture was allowed to stir at ambient temperature for 72 h, was then diluted with EtOAc (4 L), washed with 1N HCl (1 L), brine (1 L), the organic layer dried over Na2SO4, filtered and evaporated under reduced pressure to yield a residue. The residue was purified by triturating with EtOAc/heptane (1:1/1 L). The resulting slurry was filtered, washed with heptane (2×250 mL) and dried in a vacuum oven at 40° C. for 18 h to yield N-(3-methylbenzo[b]thiophen-2-yl)-4-carboxy-benzenesulfonamide as a white solid. 1H-NMR (DMSO-d6) δ13.51 (br s, 1H), 10.65 (br s, 1H), 8.12 (d, 2H), 7.86 (d, 2H), 7.83-7.79 (m, 1H), 7.66-7.63 (m, 1H), 7.37-7.33 (m, 1H), 2.03 (s, 3H).

reactant | 3-methylbenzo[b]thiophen-2-amine hydrochloride | 1.6 mol, 326 g | Cl.CC=1C2=C(SC1N)C=CC=C2
reactant | pyridine | 3.3 mol, 265 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-(chlorosulfonyl)benzoic acid | 1.8 mol, 396 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
solvent | THF | 2.44 L | C1CCOC1 | C4H8O
solvent | EtOAc | 4 L | CCOC(=O)C | C4H8O2
solvent | THF | 3.26 L | C1CCOC1 | C4H8O
product | N-(3-methylbenzo[b]thiophen-2-yl)-4-carboxy-benzenesulfonamide | CC=1C2=C(SC1NS(=O)(=O)C1=CC=C(C=C1)C(=O)O)C=CC=C2 | C16H13NO4S2
